### PR TITLE
[Merged by Bors] - feat(Complex): add `arg_{pow/zpow}_coe_angle`

### PR DESCRIPTION
**Pull request by wwylele**
Add `arg_pow_coe_angle` and `arg_zpow_coe_angle` that translates pow on complex to mul on arg.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 1]
```diff
@@ -491,6 +491,21 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n: ℕ} :
```
Comment (kbuzzard) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:494]:
```suggestion
theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 2]
```diff
@@ -491,6 +491,21 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
...
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
+  by_cases x0: x = 0
+  · by_cases n0: n = 0
+    repeat simp [x0, n0]
+  · induction n with
+    | zero => simp [x0]
+    | succ n ih => rw [pow_succ, arg_mul_coe_angle (pow_ne_zero n x0) x0, ih]; rfl
+
+theorem arg_zpow_coe_angle {x : ℂ} {n: ℤ} :
```
Comment (kbuzzard) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:503]:
```suggestion
theorem arg_zpow_coe_angle {x : ℂ} {n : ℤ} :
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 3]
```diff
@@ -491,6 +491,21 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
+  by_cases x0: x = 0
+  · by_cases n0: n = 0
+    repeat simp [x0, n0]
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:498]:
```suggestion
    all_goals simp [x0, n0]
```
or `<;> simp [x0, n0]` on the previous line

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 4]
```diff
@@ -491,6 +491,21 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
+  by_cases x0: x = 0
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:496]:
```suggestion
  by_cases x0 : x = 0
```
or
```
  obtain rfl | x0 := eq_or_ne x 0
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 5]
```diff
@@ -491,6 +491,20 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:495]: A small nit, for consistency with the rest of the file: 

```suggestion
    (arg (x ^ n) : Real.Angle) = n • (arg x : Real.Angle) := by
```

(and below)

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 6]
```diff
@@ -491,6 +491,20 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
...
+  obtain rfl | x0 := eq_or_ne x 0
+  · by_cases n0 : n = 0 <;> simp [n0]
+  · induction n with
+    | zero => simp [x0]
+    | succ n ih => rw [pow_succ, arg_mul_coe_angle (pow_ne_zero n x0) x0, ih]; rfl
+
+theorem arg_zpow_coe_angle {x : ℂ} {n : ℤ} :
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
+  match n with
+  | Int.ofNat m => simp; exact arg_pow_coe_angle
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:505]: This simp is non-terminal; better as
```suggestion
  | Int.ofNat m => simp [arg_pow_coe_angle]
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 7]
```diff
@@ -491,6 +491,20 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
+    ((x ^ n).arg : Real.Angle) = n • (x.arg : Real.Angle) := by
+  obtain rfl | x0 := eq_or_ne x 0
+  · by_cases n0 : n = 0 <;> simp [n0]
+  · induction n with
+    | zero => simp [x0]
+    | succ n ih => rw [pow_succ, arg_mul_coe_angle (pow_ne_zero n x0) x0, ih]; rfl
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:500]: If you replace this `rfl` with `simp?`, does it tell you a lemma name that you can add to the rewrite?

Comment (wwylele) [reply Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:500]: `simp?` just give me an error saying "simp made no progress"`
I also tried `apply?`, but it gave me `exact rfl`, which is why I put `rfl` there

Comment (eric-wieser) [reply Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:500]: `succ_nsmul` is the name of the lemma, but I had to guess it
```suggestion
    | succ n ih => rw [pow_succ, arg_mul_coe_angle (pow_ne_zero n x0) x0, ih, succ_nsmul]
```

File: Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean [hunk 8]
```diff
@@ -491,6 +491,20 @@ theorem arg_div_coe_angle {x y : ℂ} (hx : x ≠ 0) (hy : y ≠ 0) :
     (arg (x / y) : Real.Angle) = arg x - arg y := by
   rw [div_eq_mul_inv, arg_mul_coe_angle hx (inv_ne_zero hy), arg_inv_coe_angle, sub_eq_add_neg]
 
+theorem arg_pow_coe_angle {x : ℂ} {n : ℕ} :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Complex/Arg.lean:494]:
```suggestion
theorem arg_pow_coe_angle (x : ℂ) (n : ℕ) :
```
These should be explicit (as should the zpow ones), since unlike in the `mul` lemma, they are not referenced by a later argument.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
